US05296554
(d) Ethylene/methyl acrylate/maleic anhydride copolymer
(MFR=3.6 g/10 min, ethylene content=94.1% by weight, methyl methacrylate content=2.0% by weight and maleic anhydride content=3.9% by weight)

reactant | ethylene | C=C | C2H4
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Ethylene/methyl acrylate maleic anhydride | C=C.C(C=C)(=O)OC.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H6O2.C2H4/c5-3-1-2-4(6)7-3;1-3-4(5)6-2;1-2/h1-2H;3H,1H2,2H3;1-2H2
